US07504403B2
3-[4-(1-tert-Butoxycarbonylamino-ethyl)-phenyl]-propionic acid ethyl ester:
Through a mixture of 3-[4-(1-tert-butoxycarbonylamino-ethyl)-phenyl]-acrylic acid ethyl ester (0.22 g, 0.69 mmol) and palladium hydroxide on carbon (100 mg) in ethanol (10 mL) was bubbled hydrogen through a balloon for 17 h. The mixture was filtered through celite and concentrated to afford an off-white solid. M+1=322.

reactant | 3-[4-(1-tert-butoxycarbonylamino-ethyl)-phenyl]-acrylic acid ethyl ester | 0.69 mmol, 0.22 g | C(C)OC(C=CC1=CC=C(C=C1)C(C)NC(=O)OC(C)(C)C)=O | C18H25NO4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 100 mg | [OH-].[OH-].[Pd+2]
product | 3-[4-(1-tert-Butoxycarbonylamino-ethyl)-phenyl]-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C(C)NC(=O)OC(C)(C)C)=O | C18H27NO4
